US07452911B2
3.44b 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-8-(2-pyrrolidin-1-yl-ethoxy)-quinoline
Prepared according to general working method I from 5-iodo-8-(2-pyrrolidin-1-yl-ethoxy)-quinoline (200 mg, 0.54 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (116 mg, 0.54 mmol).

reactant | 5-iodo-8-(2-pyrrolidin-1-yl-ethoxy)-quinoline | 0.54 mmol, 200 mg | IC1=C2C=CC=NC2=C(C=C1)OCCN1CCCC1 | C15H17IN2O
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.54 mmol, 116 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-8-(2-pyrrolidin-1-yl-ethoxy)-quinoline | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=C2C=CC=NC2=C(C=C1)OCCN1CCCC1 | C28H24ClN3O
